data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_221298_1,[C:1]([C:3]([N:2](/[C:5](=[C:4](\[O:6][H:8])[H:10])[H:11])[H:9])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:3]([C:4](/[C:5](=[N:2]\[H:9])[H:11])([O:6][H:8])[H:10])=[O:7])([H:12])([H:13])[H:14],63.30282749997394
MR_613109_0,[n:1]1([H:5])[c:3]([H:7])[c:2]([H:6])[o:4]1>>[N:1](=[C:3](\[C:2](=[O:4])[H:6])[H:7])\[H:5],19.46191249999778
MR_324982_1,[C@:1]1([C@@:3]2([H:12])[C:6]([O:9][H:10])=[C:7]2[H:13])([C:4]([H:14])([H:15])[H:16])[C@:2]([C:5]([H:17])([H:18])[H:19])([H:11])[O:8]1>>[C:1]1([C:3]2([H:12])[C:6]([O:9][H:10])=[C:7]2[H:13])([C:4]([H:14])([H:15])[H:16])[C:2]([C:5]([H:17])([H:18])[H:19])([H:11])[O:8]1,57.07363500000668
MR_38392_2,[C:1]1([O:7][H:9])([H:10])[C:2]([H:13])([H:14])[C:3]([N:6]([H:11])[H:12])([H:15])[C:5]1([C:4]([H:17])([H:18])[H:19])[O:8][H:16]>>[C:1]([C:2]([C:3]([N:6]([H:11])[H:12])([H:15])[H:16])([H:13])[H:14])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([O:7][H:9])[H:10],70.45444500000215
MR_275323_0,[C:1]([C:3](=[C:5](\[N:4]([H:8])[H:9])[H:10])/[N:7]=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[N:7][C:6]([C:2]([H:15])([H:16])[H:17])([H:11])[C:5]1([N:4]([H:8])[H:9])[H:10])([H:12])([H:13])[H:14],31.77722750002601
MR_41341_1,[C:1](/[C:2](=[C:4]([C:6](=[C:5](/[N:3]([H:9])[H:10])[H:12])/[H:13])\[H:11])[O:7][H:8])([H:14])([H:15])[H:16]>>[C:1]([C@:2]1([O:7][H:8])[C:4]([H:11])=[C:6]([H:13])[C@:5]1([N:3]([H:9])[H:10])[H:12])([H:14])([H:15])[H:16],47.07944250002143
MR_298547_0,[C:1](/[N:8]=[C:2]([C:3](/[N:5]([H:12])[H:13])=[C:6](/[O:7][H:9])[H:14])\[N:4]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1]([N:8]1[C:2]([N:4]([H:10])[H:11])=[C:3]([N:5]([H:12])[H:13])[C@:6]1([O:7][H:9])[H:14])([H:15])([H:16])[H:17],42.24832000001996
MR_335073_1,[N:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([O:5][C:4](=[O:7])[H:11])[H:8]>>[N:1]1([H:8])[C:4]([O:7][C:2]([N:3]([H:9])[H:10])=[O:6])([H:11])[O:5]1,66.81117999999785
MR_84985_0,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:18])[H:19])[C:2]([C:6]([N:7]([H:10])[H:11])=[O:8])([H:9])[C:3]1([H:12])[H:13]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:18])[H:19])[C:3]([H:12])([H:13])[C:2]([H:9])=[C:6]([N:7]([H:10])[H:11])[O:8]1,50.17992000000504
MR_533069_2,[C:1]1([C:6](=[C:7]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])[N:8]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[N:5]1[H:9]>>[C:1](\[C:2]([N:5]([H:9])[H:17])([H:13])[H:14])(=[C:6](\[C:7]([C:3]([H:15])([H:16])[H:20])=[C:4]([H:18])[H:19])[N:8]([H:11])[H:12])[H:10],52.27514249999416
MR_580287_1,[C@@:1]([C:2](/[N:8]=[C:6](\[O:7][H:9])[H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4]([N:5]([H:12])[H:13])[H:10])[H:11]>>[C@@:1]1([C:3]([H:17])([H:18])[H:19])([H:11])[C:2]([H:15])([H:16])[N:8]1[C@:6]([N:4]([N:5]([H:12])[H:13])[H:10])([O:7][H:9])[H:14],67.6444999999984
MR_147733_0,[C@@:1](/[C:3]([N:6]([H:12])[H:13])=[N:7]/[H:14])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])([N:5]([H:10])[H:11])[H:9]>>[C:1](=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:8]/[C:3]([N:6]([H:12])[H:13])=[N:7]/[H:14])(\[N:5]([H:10])[H:11])[H:9],71.1992874999764
MR_522449_1,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([O:7][C:5](=[C:6]([H:17])[H:18])[H:10])[O:8][H:9])([H:11])([H:12])[H:16]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([C:6]([C:5](=[O:7])[H:10])([H:17])[H:18])[O:8][H:9])([H:11])([H:12])[H:16],67.01950999997123
MR_267090_1,[C:1]([C:3]12[C:2](/[C:4](=[N:8]/[H:9])[H:10])([C:5]([H:11])=[C:6]1[H:12])[O:7]2)([H:13])([H:14])[H:15]>>[C:1]([c:3]1[c:6]([H:12])[c:5]([H:11])[c:2](/[C:4](=[N:8]/[H:9])[H:10])[o:7]1)([H:13])([H:14])[H:15],28.87817749999755
MR_553500_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])(/[C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[O:7][H:10])=[N:9]/[H:12])[O:8][H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])/[C:6]([O:7][H:10])=[N:9]/[H:12])[O:8][H:11],68.66042250000163
MR_485253_1,[C:1]([N:3]([C:4]([N:7]([H:12])[H:13])=[O:8])[N:6]([H:10])[H:11])([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:3]([N:6]([H:10])[H:11])[C@@:5]1([C:2]([H:16])([H:17])[H:18])[O:9][C:4]([N:7]([H:12])[H:13])=[O:8],68.13646000000475
MR_49382_1,[C:1]1([C:4]([H:18])([H:19])[H:20])([O:8][H:11])[C:3]([H:16])([H:17])[C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:14])[H:15])[C:6]1([O:9][H:12])[O:10][H:13]>>[C:1]([C:3]([C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:14])[H:15])[H:13])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]([O:9][H:12])=[O:10])[O:8][H:11],60.82420249995408
MR_404037_2,[C:1]1([H:9])([H:10])[C:4]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([N:6]([H:7])[H:8])[O:5]1>>[C:1](/[C:4]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])=[N:6]/[H:8])([O:5][H:7])([H:9])[H:10],25.889395000017288
